US05143912
A solution of 151 g of triethyloxonium tetrafluoroborate in 3200 ml of methylene chloride was stirred under argon at room temperature for 3.5 hours after the addition of 106.6 g of 6-chloro-2,3-dihydro-1H-isoindol-1-one. The mixture was then treated within 40 minutes with 1.28 l of saturated sodium hydrogen carbonate solution, the organic phase was separated and washed with 1.28 l of water. After drying over sodium sulphate the organic phase was filtered and evaporated. The residue was taken up in 1.3 l of diethyl ether, whereupon it was stirred at room temperature for about 30 minutes. After removing insoluble material by filtration the filtrate was evaporated. There was obtained 110.5 g of 1-ethoxy-6-chloro-3H-isoindole with a m.p. of 64°-66°.

reactant | triethyloxonium tetrafluoroborate | 151 g | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | 6-chloro-2,3-dihydro-1H-isoindol-1-one | 106.6 g | ClC1=CC=C2CNC(C2=C1)=O | C8H6ClNO
reactant | sodium hydrogen carbonate | 1.28 l | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 3200 ml | C(Cl)Cl | CH2Cl2
product | 1-ethoxy-6-chloro-3H-isoindole | 110.5 g | C(C)OC1=NCC2=CC=C(C=C12)Cl | C10H10ClNO
